US07572820B2
4-Chloro-1-[(5-cyclopropyl-1,3,4-thiadiazol-2-yl)methyl]-2-(difluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 39 from 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile and 2-(chloromethyl)-5-cyclopropyl-1,3,4-thiadiazole: MS (ESI) m/z 365 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | 2-(chloromethyl)-5-cyclopropyl-1,3,4-thiadiazole | ClCC=1SC(=NN1)C1CC1 | C6H7ClN2S
product | 4-Chloro-1-[(5-cyclopropyl-1,3,4-thiadiazol-2-yl)methyl]-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC=1SC(=NN1)C1CC1)C(F)F | C16H11ClF2N4S
